*
*  ZETEX  BS170 Mosfet Spice Subcircuit   Last revision  3/5/00
*
.SUBCKT BS170 3 4 5
*             D G S
M1 3 2 5 5 N3306M
RG 4 2 270
RL 3 5 1.2E8
C1 2 5 28E-12
C2 3 2 3E-12 
D1 5 3 N3306D
*
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS BS170
*
*$
*
*                          (C)  1991 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
